Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Bactrim
 
Attending: ___.
 
Chief Complaint:
___ hx of Roux-en-Y gastric bypass, vaginal birth 4 weeks ago, 
and tubal ligation 6 weeks ago p/w abdominal pain & nausea c/f 
intussusception.
 
Major Surgical or Invasive Procedure:
Endoscopy- showed no marginal ulcers

 
History of Present Illness:
___ with history of Roux-en-y gastric bypass ___, ___ 
___ who presented to ___ with worsening 
abdominal pain and subsequently transferred to ___
after CT showed findings concerning for intussusception. 

Patient reports symptoms have been present for at least a month 
after giving birth to her fourth child by vaginal delivery 6 
weeks ago followed by tubal ligation one month ago. She has 
noted intermittent abdominal pain that is worse with eating and 
drinking and had initially sought care from her OB/Gyn, whom she 
was seeing following the tubal ligation procedure. She reports 
baseline ___ pain/discomfort at her mid- to lower left abdomen 
but has episodes of sharp pain of variable duration, often 
incited by oral intake, resolving spontaneously, and associated 
with severe nausea and sometimes bloating/distension. The week 
prior to admission, the symptoms have progressed to limit her 
ability to eat/drink and function, prompting her to seek medical 
attention. She also reports episodes of bloating after 
food/fluid intake that do not occur with pain. She denies fever 
and vomiting. She has had loose stools for the past month and 
her last bowel movement was two days ago. She reports flatus 
today. These symptoms have overall made her feel "miserable" as 
she has been unable to eat and have the energy to care for her 
newborn. 
 
Past Medical History:
PMH: 
- migraines
- h/o exercise-induced asthma
- h/o anxiety
- POB/GYN: G4P3, SVD x3, abruption during one pregnancy as a 
result of domestic violence per patient (no longer with that 
partner), denies abnormal pap, STIs

PSH: 
- tubal ligation ___, ___
- ___-en-y gastric bypass ___, ___
- laparoscopic cholecystectomy
- tonsils and adenoids

 
Social History:
___
Family History:
Mother with CHF.
 
Physical Exam:
VS:
___ 1458 Temp: 98.7 PO BP: 120/82 L Sitting HR: 103 RR: 18 
O2 sat: 97% O2 delivery: RA  

GEN: Well appearing, no acute distress
HEENT: NCAT, EOMI, sclera anicteric
CV: HDS
PULM: No signs of respiratory distress. 
ABD: soft, mildly tender in LLQ, non-distended
EXT: Warm, well-perfused
NEURO: A&Ox3, no focal neurologic deficits
 
Pertinent Results:
___ 04:51AM URINE  COLOR-Straw APPEAR-Hazy* SP ___
___ 04:51AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-TR*
___ 04:51AM URINE  RBC-2 WBC-6* BACTERIA-NONE YEAST-NONE 
EPI-11
___ 01:04AM   COMMENTS-GREEN TOP 
___ 01:04AM   LACTATE-0.9
___ 12:55AM   GLUCOSE-78 UREA N-6 CREAT-0.5 SODIUM-144 
POTASSIUM-3.1* CHLORIDE-113* TOTAL CO2-22 ANION GAP-9*
___ 12:55AM   estGFR-Using this
___ 12:55AM   ALT(SGPT)-11 AST(SGOT)-13 ALK PHOS-47 TOT 
BILI-0.2
___ 12:55AM   LIPASE-27
___ 12:55AM   ALBUMIN-3.0* CALCIUM-7.3* PHOSPHATE-3.4 
MAGNESIUM-1.4*
___ 12:55AM   WBC-7.6 RBC-3.88* HGB-10.4* HCT-33.8* MCV-87 
MCH-26.8 MCHC-30.8* RDW-13.2 RDWSD-41.8
___ 12:55AM   NEUTS-48.2 ___ MONOS-6.5 EOS-5.2 
BASOS-1.3* IM ___ AbsNeut-3.65 AbsLymp-2.90 AbsMono-0.49 
AbsEos-0.39 AbsBaso-0.10*
___ 12:55AM   PLT COUNT-188
 
Brief Hospital Course:
The patient was admitted to the General Surgical Service on 
___ after presentation to ___ with 
worsening abdominal pain and subsequent transfer to ___ after 
CT at ___ showed findings concerning for 
intussusception. Admission CT  at ___ revealed status post 
Roux-en-Y gastric bypass with no focal abnormalities identified 
at the anastomotic site.  Also, no findings suggestive of 
intussusception identified in the region of the jejunojejunal 
anastomosis. There was further work up with a small bowel 
enteroscopy on ___ that showed normal esophageal mucosa, 
no evidence of gastric pouch and proximal anastamosis 
ulceration, and no evidence of distal anastomosis ulceration. 
Additionally, a BAS/UGI AIR/SBFT was performed on ___ and 
showed no evidence of gastrogastric fistula, leak or 
obstruction. Oral contrast flowed freely through the 
gastrojejunostomy loop into the jejunum. U/A on admission 
indicated a UTI with cultures of klebsiella pneumoniae and she 
was treated with Augmentin for 5 days. 

Upon hearing that her UGI with SBFT was normal she decided that 
she would prefer to follow up with her own bariatric surgeon on 
___ since she already had an appointment. Since she 
was taking in adequate PO, making good urine output, and in no 
acute distress this was deemed reasonable and she was discharged 
with instructions to follow up with her surgeon and seek 
immediate medical attention should the pain worsen, she develop 
vomiting, inability to pass flatus, or fevers. 

Throughout her stay, ___ was tolerating a Bari 3- 
diet with some nausea, she took an average of 1 liter in a day. 
She was able to tolerate oral pain medications during her stay. 
At the time of discharge her diet included soft diet to advance 
to regular diet as per patient comfort. The patient voided 
without problem. During this hospitalization, the patient 
ambulated early and frequently, was adherent with respiratory 
toilet and incentive spirometry, and actively participated in 
the plan of care. The patient received subcutaneous heparin 
during this stay.  

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating diet as 
above per oral with some nausea and diarrhea, ambulating, 
voiding without assistance, and pain was well controlled. The 
patient was discharged home without services. The patient 
received discharge teaching and follow-up instructions with 
understanding verbalized and agreement with the discharge plan.  


 
Medications on Admission:
zoloft
 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*7 Tablet Refills:*0 
2.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
3.  Sucralfate 1 gm PO QID 
RX *sucralfate [Carafate] 1 gram 1 tablet(s) by mouth four times 
a day Disp #*120 Tablet Refills:*0 
4.  Acetaminophen 1000 mg PO Q8H  
5.  Sertraline 75 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
abdominal pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  
 ___ was a pleasure taking care of you here at ___ 
___. You were admitted to our hospital for 
abdominal pain, nausea and vomiting. You were worked up 
extensively with a CT scan, EGD (scope), an Upper GI contrast 
swallow study which were all normal. Upon discharge you were 
toelrating enough liquid to sustain your hydration and nutrition 
and were ready to be discharged to home with plans to follow up 
with your Bariatric surgeon on this coming ___. Please 
follow the recommendations below to ensure a speedy and 
uneventful recovery.  

- Please return to the ed or seek emergent medical attention if 
develop nausea vomiting or inability to stay hydrated. ALso 
return if you are not able to pass gas for more than a day or 
unable to pass stool for more than a few days. 
 
 
 ACTIVITY:  
 
 - Do not drive until you feel that you can respond quickly to 
traffic and obstacles.
 
 - You may climb stairs.  
 
 - You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit.  
 
 - You may start some light exercise when you feel comfortable.  

 
 - Heavy exercise may be started after 6 weeks, but use common 
sense and go slowly at first.  
 
 - You may resume sexual activity unless your doctor has told 
you otherwise.  
 
DIET:
- we would recommend that you continue a bariatric stage 3 diet 
and try avoiding lactose products as this may contribute to your 
pain
 
 HOW YOU MAY FEEL:  
 
 - You may feel weak or "washed out" for some time. You might 
want to nap often. Simple tasks may exhaust you.  
 
 - You may have a sore throat because of a tube that was in your 
throat during the endoscopy.  
 
 
 PAIN MANAGEMENT:  
 
 - If you continue to have pain we would recommend using Tylenol 
and avoiding any narcotic medication as this will likely 
increase your constipation. It is important that you take no 
more than 4000mg of tylenol a day. 
 
 MEDICATIONS:  
 - Take all the medicines you were on before the operation just 
as you did before, unless you have been told differently.  
 - If you have any questions about what medicine to take or not 
to take, please call your surgeon.  

 
Followup Instructions:
___